US04560683
(a) Diphenylmethyl (6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-ceph-3-em-4-carboxylate
Oxalyl chloride (0.37 ml) was added to a solution of N,N-dimethylformamide (0.38 ml) in methylene chloride (10 ml) at -20° with stirring. After five minutes at 0°, the mixture was recooled to -20° and (Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid (1.94 g) was added. The solution was stirred at 0° for ten minutes before recooling to -20°. A slurry of diphenylmethyl (6R,7R)-7-amino-3-carbamoyloxymethylceph-3-em-4-carboxylate (1.76 g) in methylene chloride (10 ml) containing N,N-dimethylaniline (1.26 ml) was added. The solution was allowed to warm to 21° and was stirred for 1.5 hours. After dilution with methylene chloride, the solution was washed with dilute hydrochloric acid and water, each time back-extracting with methylene chloride. The combined organic layers were dried (magnesium sulphate) and concentrated. The solution was loaded into a column of Sorbsil U30 (70 g) which was eluted with a gradient of ethyl acetate (10 to 100%) in petroleum ether (b.p. 40°-60°). Evaporation of the appropriate eluate gave the title compound (3.03 g) as a foam, [α]D21 +10.7° (c 1.03, CHCl3); νinfl 238.5 nm (E1 cm1% 2.78), 258.5 (E1 cm1% 227), 264.5 (E1 cm1% 212), 271.5 (E1 cm1% 186) and 296.5 (E1 cm1% 88)

reactant | Oxalyl chloride | 0.37 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid | 1.94 g | C1(CC1)CO\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H25N3O3S
reactant | diphenylmethyl (6R,7R)-7-amino-3-carbamoyloxymethylceph-3-em-4-carboxylate | 1.76 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H21N3O5S
reactant | N,N-dimethylaniline | 1.26 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.38 ml | CN(C=O)C | C3H7NO
product | Diphenylmethyl (6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-ceph-3-em-4-carboxylate | 3.03 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC2CC2)=O)=O | C50H44N6O7S2
